US07345038B2
To a solution of 2-chloro-6-(bromomethyl)pyridine (490 mg, 2.37 mmole) in 5 mL of dry acetonitrile is added 0.51 mL (4.74 mmol) of 2-methoxy-N-methylethylamine and 328 mg (2.37 mmol) of potassium carbonate. The reaction is heated at 80° C. for 2 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 478 mg (94% yield) of (6-Chloro-pyridin-2-ylmethyl)-(2-methoxy-ethyl)-methyl-amine. Diagnostic 1H NMR (400 MHz, CDCl3) 2.34 (s, 3h), 2.67 (t, 2H, J=5.9 Hz), 3.34 (s, 3H), 3.52 (t, 2H, J=5.8 Hz), 3.71 (s, 3H), 7.19 (d, 1H, J=7.9 Hz), 7.54 (d, 1H, J=7.9 Hz), 7.60–7.64 (m, 1H); MS 215.2 (M+H).

reactant | 2-chloro-6-(bromomethyl)pyridine | 2.37 mmole, 490 mg | ClC1=NC(=CC=C1)CBr | C6H5BrClN
reactant | 2-methoxy-N-methylethylamine | 4.74 mmol, 0.51 mL | COCCNC | C4H11NO
reactant | potassium carbonate | 2.37 mmol, 328 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (6-Chloro-pyridin-2-ylmethyl)-(2-methoxy-ethyl)-methyl-amine | 478 mg, 94% yield | ClC1=CC=CC(=N1)CN(C)CCOC | C10H15ClN2O
